US05124331
3,4-Dihydro-6-[N-(4-acetylaminobutyl)sulfamoyl]-3-(2-chlorophenyl)-2-methyl-4-oxothieno[2,3-d]pyrimidine
To 8.0 g of 3,4-dihydro-3-(2-chlorophenyl)-6-chlorosulfonyl-2-methyl-4-oxothieno[2,3-d]pyrimidine were added 150 ml of dichloromethane, 3.3 g of 4-acetylaminobutylamine and 5.9 ml of triethylamine, and the mixture was stirred at room temperature for 3 hours. After the reaction mixture was washed with water, the concentrated residue was purified by means of silica gel chromatography to obtain 5.71 g of oily substance, which was crystallized from ethyl acetate-hexane to afford 4.44 g of the title compound, m.p. 203°-206° C. (decomposition).

reactant | 3,4-dihydro-3-(2-chlorophenyl)-6-chlorosulfonyl-2-methyl-4-oxothieno[2,3-d]pyrimidine | 8.0 g | ClC1=C(C=CC=C1)N1C(=NC2=C(C1=O)C=C(S2)S(=O)(=O)Cl)C | C13H8Cl2N2O3S2
reactant | dichloromethane | 150 ml | ClCCl | CH2Cl2
reactant | 4-acetylaminobutylamine | 3.3 g | C(C)(=O)NCCCCN | C6H14N2O
solvent | triethylamine | 5.9 ml | C(C)N(CC)CC | C6H15N
product | 3,4-Dihydro-6-[N-(4-acetylaminobutyl)sulfamoyl]-3-(2-chlorophenyl)-2-methyl-4-oxothieno[2,3-d]pyrimidine | 4.44 g | C(C)(=O)NCCCCNS(=O)(=O)C1=CC2=C(N=C(N(C2=O)C2=C(C=CC=C2)Cl)C)S1 | C19H21ClN4O4S2
